US07232617B2
Synthesis of 1,2-bis(benzoyl)-3,4,5,6-tetraphenylbenzene
1,2-bis(benzoyl)acetylene (C16H10O2, 234.27, 2 g, 8.54 mmol), tetraphenylcyclopenta-dienone (C29H20O, 384.47, 3.28 g, 8.54 mmol), and 40 g benzophenone were refluxed for 2 hr under an atmosphere of nitrogen. The reaction mixture was cooled to 30° C. and poured into a large volume (250 ml) of methanol. The tan precipitation was washed with methanol (2×10 ml) and refluxed in toluene (25 ml) charcoal (a spoon) to give a white crystal in 43% yield.

reactant | 1,2-bis(benzoyl)acetylene | 8.54 mmol, 2 g | C(C1=CC=CC=C1)(=O)C#CC(C1=CC=CC=C1)=O | C16H10O2
reactant | tetraphenylcyclopenta-dienone | 8.54 mmol, 3.28 g | C1(=CC=CC=C1)C1=C(C(=C(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H20O
reactant | benzophenone | 40 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | methanol | 250 ml | CO | CH4O
product | 1,2-bis(benzoyl)-3,4,5,6-tetraphenylbenzene | 43% yield | C(C1=CC=CC=C1)(=O)C1=C(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C44H30O2
